US07981903B2
To a solution of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole hydrochloride (1 g, 4.34 mmol) in DMF (50 mL) was added HATU (9.89 g, 26.0 mmol), 2-hydroxy-2-methylpropanoic acid (0.677 g, 6.50 mmol), and DIPEA (2.272 mL, 13.01 mmol). After stirring overnight at rt, the solvent was removed, the residue was redissolved in DCM (100 mL), washed with 1M HCl (100 mL), adsorbed to silica gel, and purified by column chromatography (10% to 40% ethyl acetate/hexanes) to afford 2-methyl-1-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-1-oxo-2-propanol (0.84 g, 69%). ESIMS (M+H)+=281.

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole hydrochloride | 4.34 mmol, 1 g | Cl.COC=1C=C2CCNC2=CC1[N+](=O)[O-]
reactant | HATU | 26.0 mmol, 9.89 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-hydroxy-2-methylpropanoic acid | 6.50 mmol, 0.677 g | OC(C(=O)O)(C)C | C4H8O3
reactant | DIPEA | 13.01 mmol, 2.272 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-methyl-1-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-1-oxo-2-propanol | 0.84 g, 69% | CC(C(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)(C)O | C13H16N2O5
